US04092311
t-Butyl-3-[5-methyl-6-(m-nitrophenyl)-3-pyridazinyl]carbazate
A mixture of 5.49 g. of 5-methyl-6-(m-nitrophenyl)-3-chloropyridazine and 8.71 g. of t-butylcarbazate in 100 ml. of butanol is heated at reflux for 3 hours and then allowed to cool to room temperature overnight. The butanol is removed on a rotating evaporator leaving a heavy liquid residue. The final product is obtained after crystallization from a minimum amount of methanol on standing, washing with methanol, water and drying, m.p. 160°-162° C.

reactant | 5-methyl-6-(m-nitrophenyl)-3-chloropyridazine | CC=1C=C(N=NC1C1=CC(=CC=C1)[N+](=O)[O-])Cl | C11H8ClN3O2
reactant | t-butylcarbazate | C(C)(C)(C)OC(NN)=O | C5H12N2O2
solvent | butanol | C(CCC)O | C4H10O
product | t-Butyl-3-[5-methyl-6-(m-nitrophenyl)-3-pyridazinyl]carbazate | C(C)(C)(C)OC(NNC=1N=NC(=C(C1)C)C1=CC(=CC=C1)[N+](=O)[O-])=O | C16H19N5O4
